US08039430B2
Di-tert-butyl N-3-butenyliminodicarboxylate (186)
To a solution of di-tert-butyliminodicarboxylate (868 mg, 4 mmol), cesium carbonate (2.61 g, 8 mmol), and lithium iodide (28 mg, 0.2 mmol) in 2-butanone (20 mL) was added 4-bromobutene (812 mg, 6 mmol) and the mixture was heated at reflux for 48 h. The reaction was allowed to cool and was quenched with brine (40 mL) and extracted with diethyl ether (3×20 mL). The combined organic fractions were washed with brine (30 mL), dried, and evaporated to yield the title compound (1.01 g, 3.7 mmol, 93%) as a light brown oil. 1H NMR (CDCl3, 300 MHz): δ 5.77 (m, 1H, H3); 5.04 (m, 2H, H4); 3.62 (dd, J=6.0, 8.7 Hz, 2H, H1); 2.30 (m, 2H, H2); 1.51 (s, 18H, 2×(CH3)3). Mass Spectrum (ES, +ve) m/z 310 (55%) [MH+], 294 (30%) [MNa+], 272 (40%) [MH+]. HRMS calcd for C14H26NO4 272.1862, found 272.1848.

reactant | di-tert-butyliminodicarboxylate | 4 mmol, 868 mg | CC(C)(C)OC(=O)NC(=O)OC(C)(C)C | C10H19NO4
reactant | cesium carbonate | 8 mmol, 2.61 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-bromobutene | 6 mmol, 812 mg | BrCCC=C | C4H7Br
solvent | 2-butanone | 20 mL | CC(CC)=O | C4H8O
catalyst | lithium iodide | 0.2 mmol, 28 mg | [I-].[Li+]
product | Di-tert-butyl N-3-butenyliminodicarboxylate | 3.7 mmol, 1.01 g, 93% | C(CC=C)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C14H25NO4
